US04544562
6.0 g (29.8 millimoles) of 2-(p-aminophenyl)- 3,4-diazabicyclo[4.1.0]hept-2-en-5-one and 3.9 g (35.9 millimoles) of methoxyacetyl chloride in 150 ml of absolute tetrahydrofuran were refluxed for 4 hours, while stirring. The product was filtered off under suction at 10° C., washed first with tetrahydrofuran and then with water and recrystallized from propanol. 3.5 g (43%) of 2-[p-(methoxyacetylamino)-phenyl]-3,4-diazabicyclo[4.1.0]hept-2-en-5-one were obtained as colorless crystals. Mp.: 206° C.

reactant | 2-(p-aminophenyl)- 3,4-diazabicyclo[4.1.0]hept-2-en-5-one | 29.8 millimoles, 6.0 g | NC1=CC=C(C=C1)C=1C2CC2C(NN1)=O | C11H11N3O
reactant | methoxyacetyl chloride | 35.9 millimoles, 3.9 g | COCC(=O)Cl | C3H5ClO2
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2-[p-(methoxyacetylamino)-phenyl]-3,4-diazabicyclo[4.1.0]hept-2-en-5-one | 3.5 g, 43% | COCC(=O)NC1=CC=C(C=C1)C=1C2CC2C(NN1)=O | C14H15N3O3
